US08071766B2
2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-hydroxybutanamide (Compound 88)
3-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)dihydrofuran-2(3H)one (14.3 mg, 0.03 mmol) was dissolved in 7N NH3-MeOH solution and stirred overnight in a sealed tube. The solvent was removed and residue dried to afford the title compound 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-hydroxybutanamide (13.2 mg, 89%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ 1.83-2.16 (m, 2H) 2.58 (d, J=6.06 Hz, 3H) 2.85-3.03 (m, 1H) 3.07-3.25 (m, 1H) 3.70 (q, J=7.24 Hz, 2H) 3.90 (d, J=11.37 Hz, 3H) 4.54 (td, J=7.83, 5.05 Hz, 1H) 4.97-5.17 (m, 1H) 6.69-6.85 (m, 1H) 7.11 (dd, J=7.71, 2.40 Hz, 1H) 7.14-7.26 (m, 2H) 7.57-7.72 (m, 1H) 7.76 (dd, J=15.03, 6.69 Hz, 1H). MS (ES) [M+H] calculated for C24H27FN7O4, 496.50. found 496.40.

reactant | 3-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)dihydrofuran-2(3H)one | 0.03 mmol, 14.3 mg | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OC2C(OCC2)=O)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C24H23FN6O4
reactant | NH3 MeOH | 7N | N.CO
product | 2-((Z)—((R)-2-amino-7-(4-fluoro-2-(6-methoxypyridin-2-yl)phenyl)-4-methyl-7,8-dihydropyrido[4,3-d]pyrimidin-5(6H)-ylidene)aminooxy)-4-hydroxybutanamide | 13.2 mg, 89% | NC=1N=C(C/2=C(N1)C[C@@H](N\C2=N/OC(C(=O)N)CCO)C2=C(C=C(C=C2)F)C2=NC(=CC=C2)OC)C | C24H26FN7O4
